US08071776B2
3-Amino-5-chloro-4-methyl-6-(2-morpholin-4-yl-ethoxy)-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide
To a solution of 4-(2-hydroxyethyl)morpholine (5.72 g, 43.62 mmol) in THF (25 ml) at room temperature is added dropwise a solution of lithium bis(trimethylsilyl)-amide (1.0 M in hexanes) (21.80 ml, 21.80 mmol). The reaction mixture is stirred for 15 minutes, and then is treated with 3-amino-5-chloro-6-methanesulfinyl-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide (30 g, 8.72 mmol). The reaction vessel is sealed and heated at 80° C. for 3 hours. The reaction is cooled to room temperature and quenched by the addition of water (200 ml). A yellow precipitate is formed. The mixture is diluted to 350 ml with water and cooled to 0° C. The yellow precipitate is collected by filtration. The solid is slurried in 100 ml of 3:1 hexane:EtOAc and stirred for 10 minutes. The mixture is filtered, and the collected solid is dried in the vacuum oven overnight to afford the title compound as a yellow solid (2.11 g, 59%). Mass (m/z): 411.1 (M++1), 409.1 (M+−1).

reactant | 4-(2-hydroxyethyl)morpholine | 43.62 mmol, 5.72 g | OCCN1CCOCC1 | C6H13NO2
reactant | lithium bis(trimethylsilyl)-amide | 21.80 mmol, 1.0 M, 21.80 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 3-amino-5-chloro-6-methanesulfinyl-4-methyl-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 8.72 mmol, 30 g | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)S(=O)C)S1)N | C13H14ClN3O2S2
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-Amino-5-chloro-4-methyl-6-(2-morpholin-4-yl-ethoxy)-thieno[2,3-b]pyridine-2-carboxylic acid cyclopropylamide | 2.11 g, 59% | C1(CC1)NC(=O)C1=C(C=2C(=NC(=C(C2C)Cl)OCCN2CCOCC2)S1)N | C18H23ClN4O3S
